US06479524B1
a. 4-iodo-3-nitro-benzophenone
5.3 g (17 mmol) of 4-iodo-3-nitrobenzoic acid and 8.0 g (60 mmol) of aluminium trichloride are added successively to 70 ml of benzene while cooling with an ice bath. Then the mixture is stirred for 2 hours at ambient temperature, then poured into ice water, extracted with methylene chloride, dried with sodium sulphate and concentrated in vacuo.

reactant | 4-iodo-3-nitrobenzoic acid | 17 mmol, 5.3 g | IC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4INO4
reactant | aluminium trichloride | 60 mmol, 8.0 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | 4-iodo-3-nitro-benzophenone | IC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8INO3
